US05039806
Preparation of N-methoxycarbonyl-5,6-methylenedioxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole
Chloro methylformate (0.24 g, 0.0026 mol) dissolved in CH2Cl2 (5 ml) was added dropwise to a stirred solution of 5,6-methylenedioxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole (0.80 g, 0.0022 mol) and triethylamine in CH2Cl2 (10 ml). The mixture was then stirred at room temperature for 19 h. The CH2Cl2 -solution was washed with water, dried (MgSO4) and the solvent was evaporated giving the desired product as an oil (0.06 g, 6%). NMR data for the final product is given below.

reactant | Chloro methylformate | 0.0026 mol, 0.24 g | CC(=O)OCl | C2H3ClO2
reactant | 5,6-methylenedioxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | 0.0022 mol, 0.80 g | C1OC2=CC3=C(NC(=N3)S(=O)CC3=NC=C(C(=C3C)OC)C)C=C2O1 | C17H17N3O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | N-methoxycarbonyl-5,6-methylenedioxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | 0.06 g, 6% | COC(=O)N1C(=NC2=C1C=C1C(=C2)OCO1)S(=O)CC1=NC=C(C(=C1C)OC)C | C19H19N3O6S
